US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 6 using 4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid methyl ester (2.80 g) and potassium carbonate (3.44 g), the objective 4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid (2.41 g) was obtained as colorless crystals.

reactant | 4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid methyl ester | 2.80 g | COC(=O)C1=C(C=C2C(CCSC2=C1)NC(=O)OC(C)(C)C)C | C17H23NO4S
reactant | potassium carbonate | 3.44 g | C([O-])([O-])=O.[K+].[K+]
product | 4-(tert-butoxycarbonylamino)-6-methylthiochromane-7-carboxylic acid | 2.41 g | C(C)(C)(C)OC(=O)NC1CCSC2=CC(=C(C=C12)C)C(=O)O | C16H21NO4S
